US20010021775A1
Preparation of 1N-(4-benzylpiperidino)carbonylmethylchloride.
A solution of 4-benzylpiperidine (17.5 g, 100 mmol) in THF (250 mL) was treated with K2CO3 (14 g, 101 mmol) and chloroacetylchloride (11.3 g, 100 mmol) at rt for 2 hours. The reaction mixture was filtered. The filtrate was concentrated, and then dissolved in EtOAc and water. The organic layer was washed with brine, dried over MgSO4, and concentrated to give the product (21.6 g, 91.5%). 1H NMR (CDCl3) δ7.32-7.12 (m, 5H), 4.09 (s, 2H), 3.79-3.76 (m, 2H), 2,56 (d, J=7.0 Hz, 2H), 1.89-1.80 (m, 1H), 1.79-1.71 (m, 4H), 1.28-1.12 (m, 2H).

reactant | 4-benzylpiperidine | 100 mmol, 17.5 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | K2CO3 | 101 mmol, 14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetylchloride | 100 mmol, 11.3 g | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (4-benzylpiperidino)carbonylmethylchloride | 21.6 g, 91.5% | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)CCl | C14H18ClNO
